US07538112B2
Step 8: Ethyl (4S)-2-ethyl-8-(methoxy)-6-[methoxy(oxo)acetyl]-4-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-7-carboxylate
To a cold (−78° C.) solution of ethyl (4S)-6-bromo-2-ethyl-8-methoxy-4-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-7-carboxylate (8.51 g, 23.7 mmol) in anhydrous THF (800 mL) under an atmosphere of dry nitrogen, a solution of n-BuLi in hexane (10.5 mL, 26.3 mmol, 2.5 M) was added. The resultant mixture was stirred at −78° C. for 20 minutes. A solution of dimethyl oxalate (6.4 g, 53.8 mmol; dried from concentration from benzene under vac) in anhydrous THF (30 mL) was added. The reaction mixture was stirred at −78° C. for 1 hour and cannulated into a mixture of aqueous sulfuric acid (240 mL, 2M) and THF (200 mL) maintained between at −5 to −35° C. The mixture was extracted with ethyl acetate (3 times). The organic extracts were combined, washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluted with 40 to 100% ethyl acetate-hexane gradient. Collection and concentration of appropriate fractions provided the titled compound.

reactant | ethyl (4S)-6-bromo-2-ethyl-8-methoxy-4-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-7-carboxylate | 23.7 mmol, 8.51 g | BrC1=C(C(=C2N1[C@H](CN(C2=O)CC)C)OC)C(=O)OCC | C14H19BrN2O4
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 26.3 mmol, 2.5 M, 10.5 mL | CCCCCC | C6H14
reactant | dimethyl oxalate | 53.8 mmol, 6.4 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | sulfuric acid | 2M, 240 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Ethyl (4S)-2-ethyl-8-(methoxy)-6-[methoxy(oxo)acetyl]-4-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-7-carboxylate | C(C)N1C(C=2N([C@H](C1)C)C(=C(C2OC)C(=O)OCC)C(C(=O)OC)=O)=O | C17H22N2O7
